### PR TITLE
[Merged by Bors] - feat: several results about Monoid.Exponent

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Exponent.lean [hunk 1]
```diff
@@ -287,11 +294,10 @@ theorem exponent_eq_zero_iff_range_orderOf_infinite (h : ∀ g : G, 0 < orderOf
 #align add_monoid.exponent_eq_zero_iff_range_order_of_infinite AddMonoid.exponent_eq_zero_iff_range_addOrderOf_infinite
 
 @[to_additive lcm_addOrder_eq_exponent]
-theorem lcm_order_eq_exponent [Fintype G] : (Finset.univ : Finset G).lcm orderOf = exponent G := by
-  apply Nat.dvd_antisymm (lcm_orderOf_dvd_exponent G)
-  refine' exponent_dvd_of_forall_pow_eq_one G _ fun g => _
-  obtain ⟨m, hm⟩ : orderOf g ∣ Finset.univ.lcm orderOf := Finset.dvd_lcm (Finset.mem_univ g)
-  rw [hm, pow_mul, pow_orderOf_eq_one, one_pow]
+theorem lcm_order_eq_exponent [Fintype G] : (Finset.univ : Finset G).lcm orderOf = exponent G :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:297]:
```suggestion
theorem lcm_orderOf_eq_exponent [Fintype G] : (Finset.univ : Finset G).lcm orderOf = exponent G :=
```
while you're at it

File: Mathlib/GroupTheory/Exponent.lean [hunk 2]
```diff
@@ -106,8 +106,15 @@ theorem exponentExists_iff_ne_zero : ExponentExists G ↔ exponent G ≠ 0 := by
...
-  simp only [exponentExists_iff_ne_zero, Classical.not_not]
+alias ⟨ExponentExists.exponent_ne_zero, _⟩ := exponentExists_iff_ne_zero
+
+@[to_additive]
+theorem ExponentExists.exponent_pos (h : ExponentExists G) : 0 < exponent G :=
+  h.exponent_ne_zero.bot_lt
+
+@[to_additive]
+theorem exponent_eq_zero_iff : exponent G = 0 ↔ ¬ExponentExists G :=
+  exponentExists_iff_ne_zero.symm.not_right
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:117]: Can you
* turn around `exponentExists_iff_ne_zero`
* write `exponent_pos : 0 < exponent G ↔ ExponentExists G`
* derive `protected alias ⟨_, ExponentExists.exponent_pos⟩ := exponent_pos`

File: Mathlib/GroupTheory/Exponent.lean [hunk 3]
```diff
@@ -178,25 +183,45 @@ theorem order_dvd_exponent (g : G) : orderOf g ∣ exponent G :=
 #align monoid.order_dvd_exponent Monoid.order_dvd_exponent
 #align add_monoid.add_order_dvd_exponent AddMonoid.addOrder_dvd_exponent
 
+@[to_additive addOrder_le_exponent]
+theorem order_le_exponent (h : ExponentExists G) (g : G) : orderOf g ≤ exponent G :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:187]:
```suggestion
theorem order_le_exponent (h : ExponentExists G) (g : G) : orderOf g ≤ exponent G :=
```
```suggestion
@[to_additive addOrderOf_le_exponent]
theorem orderOf_le_exponent (h : ExponentExists G) (g : G) : orderOf g ≤ exponent G :=
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 4]
```diff
@@ -178,25 +183,45 @@ theorem order_dvd_exponent (g : G) : orderOf g ∣ exponent G :=
...
+  Nat.le_of_dvd h.exponent_pos (order_dvd_exponent g)
+
 variable (G)
 
 @[to_additive]
-theorem exponent_dvd_of_forall_pow_eq_one (G) [Monoid G] (n : ℕ) (hG : ∀ g : G, g ^ n = 1) :
-    exponent G ∣ n := by
+theorem exponent_dvd_iff_forall_pow_eq_one {n : ℕ} : exponent G ∣ n ↔ (∀ g : G, g ^ n = 1) := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:193]:
```suggestion
theorem exponent_dvd_iff_forall_pow_eq_one {n : ℕ} : exponent G ∣ n ↔ ∀ g : G, g ^ n = 1 := by
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 5]
```diff
@@ -178,25 +183,45 @@ theorem order_dvd_exponent (g : G) : orderOf g ∣ exponent G :=
...
+    have h₃ : exponent G ≤ n % exponent G := by
+      apply exponent_min' _ h
+      simp_rw [← pow_eq_mod_exponent]
+      exact hG
+    exact h₂.not_le h₃
+
+@[to_additive]
+theorem exponent_dvd_of_forall_pow_eq_one (n : ℕ) (hG : ∀ g : G, g ^ n = 1) :
+    exponent G ∣ n :=
+  (exponent_dvd_iff_forall_pow_eq_one G).mpr hG
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:213]: Can you remove this one now that we have the iff?

File: Mathlib/GroupTheory/Exponent.lean [hunk 6]
```diff
@@ -178,25 +183,45 @@ theorem order_dvd_exponent (g : G) : orderOf g ∣ exponent G :=
...
 #align monoid.exponent_dvd_of_forall_pow_eq_one Monoid.exponent_dvd_of_forall_pow_eq_one
 #align add_monoid.exponent_dvd_of_forall_nsmul_eq_zero AddMonoid.exponent_dvd_of_forall_nsmul_eq_zero
 
+@[to_additive]
+theorem exponent_dvd {n : ℕ} : exponent G ∣ n ↔ ∀ g : G, orderOf g ∣ n := by
+  simp_rw [exponent_dvd_iff_forall_pow_eq_one, orderOf_dvd_iff_pow_eq_one]
+
+@[to_additive]
+theorem exponent_dvd_of_forall_orderOf_dvd (n : ℕ) (h : ∀ g : G, orderOf g ∣ n) : exponent G ∣ n :=
+  (exponent_dvd G).mpr h
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:223]: Similarly here

File: Mathlib/GroupTheory/Exponent.lean [hunk 7]
```diff
@@ -302,9 +328,17 @@ section LeftCancelMonoid
 variable [LeftCancelMonoid G]
 
 @[to_additive]
-theorem exponent_ne_zero_of_finite [Finite G] : exponent G ≠ 0 := by
-  cases nonempty_fintype G
-  simpa [← lcm_order_eq_exponent, Finset.lcm_eq_zero_iff] using fun x => (orderOf_pos x).ne'
+theorem ExponentExists.of_finite [Finite G] : Monoid.ExponentExists G := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:331]:
```suggestion
theorem ExponentExists.of_finite [Finite G] : ExponentExists G := by
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 8]
```diff
@@ -302,9 +328,17 @@ section LeftCancelMonoid
...
+  let _inst := Fintype.ofFinite G
+  simp only [Monoid.ExponentExists]
+  refine ⟨(Finset.univ : Finset G).lcm orderOf, ?_, fun g => ?_⟩
+  · simpa [pos_iff_ne_zero, Finset.lcm_eq_zero_iff] using fun x => (orderOf_pos x).ne'
+  · rw [← orderOf_dvd_iff_pow_eq_one, lcm_orderOf_eq_exponent]
+    exact order_dvd_exponent g
+
+@[to_additive]
+theorem exponent_ne_zero_of_finite [Finite G] : exponent G ≠ 0 :=
+  exponentExists_iff_ne_zero.mp ExponentExists.of_finite
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:341]:
```suggestion
  ExponentExists.of_finite.exponent_ne_zero
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 9]
```diff
@@ -315,18 +349,14 @@ section CommMonoid
 variable [CommMonoid G]
 
 @[to_additive]
-theorem exponent_eq_iSup_orderOf (h : ∀ g : G, 0 < orderOf g) :
-    exponent G = ⨆ g : G, orderOf g := by
-  rw [iSup]
-  rcases eq_or_ne (exponent G) 0 with (he | he)
-  · rw [he, Set.Infinite.Nat.sSup_eq_zero <| (exponent_eq_zero_iff_range_orderOf_infinite h).1 he]
+theorem exists_orderOf_eq_exponent (h : ∀ g : G, 0 < orderOf g) (he : exponent G ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:352]:
```suggestion
theorem exists_orderOf_eq_exponent (hG : ExponentExists G) :
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 10]
```diff
@@ -494,3 +546,77 @@ theorem Monoid.exponent_prod {M₁ M₂ : Type*} [Monoid M₁] [Monoid M₂] :
...
+variable [Monoid G]
+
+@[to_additive]
+lemma orderOf_eq_two_iff (hG : Monoid.exponent G = 2) {x : G} :
+    orderOf x = 2 ↔ x ≠ 1 :=
+  ⟨by rintro hx rfl; norm_num at hx, orderOf_eq_prime (hG ▸ Monoid.pow_exponent_eq_one x)⟩
+
+@[to_additive]
+theorem mul_comm_of_orderOf_dvd_two [IsCancelMul G] {a b : G} (h : ∀ g : G, orderOf g ∣ 2) :
+    a * b = b * a := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:565]:
```suggestion
theorem Commute.of_orderOf_dvd_two [IsCancelMul G] (h : ∀ g : G, orderOf g ∣ 2) :
    ∀ a b : G, Commute a b := by
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 11]
```diff
@@ -494,3 +546,77 @@ theorem Monoid.exponent_prod {M₁ M₂ : Type*} [Monoid M₁] [Monoid M₂] :
...
+/-- If an element in a group has order two, then it is its own inverse. -/
+@[to_additive]
+lemma inv_eq_self_of_orderOf_eq_two {x : G} (hx : orderOf x = 2) :
+    x⁻¹ = x :=
+  inv_eq_of_mul_eq_one_left <| pow_two (a := x) ▸ hx ▸ pow_orderOf_eq_one x
+
+/-- Any group of exponent two is abelian. -/
+@[to_additive (attr := reducible) "Any additive group of exponent two is abelian."]
+def commGroupOfExponentTwo (hG : Monoid.exponent G = 2) : CommGroup G where
+  mul_comm := mul_comm_of_exponent_two hG
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:605]: I feel like you should not have this definition at all since it's just a call to a constructor with only one use of each argument

EDIT: I see this was moved. Can you put a `TODO: Delete` then?

File: Mathlib/Algebra/Group/Commute/Defs.lean [hunk 12]
```diff
@@ -44,6 +44,9 @@ section Mul
 
 variable {S : Type*} [Mul S]
 
+@[to_additive]
+theorem _root_.commute_def {a b : S} : Commute a b ↔ a * b = b * a := .rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Commute/Defs.lean:48]: That's just the rewriting lemma for `Commute`, right?

File: Mathlib/GroupTheory/Exponent.lean [hunk 13]
```diff
@@ -314,7 +322,7 @@ theorem exponent_eq_zero_iff_range_orderOf_infinite (h : ∀ g : G, 0 < orderOf
 theorem lcm_orderOf_eq_exponent [Fintype G] : (Finset.univ : Finset G).lcm orderOf = exponent G :=
   Nat.dvd_antisymm
     (lcm_orderOf_dvd_exponent G)
-    (exponent_dvd_of_forall_orderOf_dvd G _ fun g => Finset.dvd_lcm (Finset.mem_univ g))
+    ((exponent_dvd G).mpr fun g => Finset.dvd_lcm (Finset.mem_univ g))
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:325]: `G` should be implicit in `exponent_dvd` since it's an iff

File: Mathlib/GroupTheory/Exponent.lean [hunk 14]
```diff
@@ -349,8 +357,9 @@ section CommMonoid
 variable [CommMonoid G]
 
 @[to_additive]
-theorem exists_orderOf_eq_exponent (h : ∀ g : G, 0 < orderOf g) (he : exponent G ≠ 0) :
+theorem exists_orderOf_eq_exponent (h : ∀ g : G, 0 < orderOf g) (hG : ExponentExists G) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:360]: This first condition is redundant
```suggestion
theorem exists_orderOf_eq_exponent (hG : ExponentExists G) :
```

File: Mathlib/Algebra/Group/Commute/Defs.lean (hunk 12 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Group/Commute/Defs.lean:48]: No, you also need to unfold `SemiconjBy`

File: Mathlib/GroupTheory/Exponent.lean (hunk 14 above)
Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Exponent.lean:360]: Only if you assume cancellativity, as far as I can tell. If not, please prove :)

File: Mathlib/Algebra/Group/Commute/Defs.lean (hunk 12 above)
Comment (adri326) [reply Mathlib/Algebra/Group/Commute/Defs.lean:48]: You can use a `Commute a b` inside of a `rw`, but you can't easily `rw` in a `Commute a b` without first unfolding `Commute` *and* `SemiConjBy`

File: Mathlib/GroupTheory/Exponent.lean [hunk 15]
```diff
@@ -178,25 +189,46 @@ theorem order_dvd_exponent (g : G) : orderOf g ∣ exponent G :=
...
+    have h₂ : n % exponent G < exponent G := Nat.mod_lt _ (exponent_pos_of_exists n hpos hG)
+    have h₃ : exponent G ≤ n % exponent G := by
+      apply exponent_min' _ h
+      simp_rw [← pow_eq_mod_exponent]
+      exact hG
+    exact h₂.not_le h₃
+
+@[to_additive (attr := deprecated)]
+theorem exponent_dvd_of_forall_pow_eq_one (n : ℕ) (hG : ∀ g : G, g ^ n = 1) :
+    exponent G ∣ n :=
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/Exponent.lean:218]: I think it would be nice to keep this around without the deprecation
```suggestion
@[to_additive]
theorem exponent_dvd_of_forall_pow_eq_one (n : ℕ) (hG : ∀ g : G, g ^ n = 1) :
    exponent G ∣ n :=
```

File: Mathlib/GroupTheory/Exponent.lean (hunk 14 above)
Comment (j-loreaux) [reply Mathlib/GroupTheory/Exponent.lean:361]: This is true in *any* monoid, almost by definition. I would put these right before `Monoid.exponent_ne_zero`.
```lean
@[to_additive]
theorem ExponentExists.isOfFinOrder (h : ExponentExists G) (g : G) : IsOfFinOrder g :=
  isOfFinOrder_iff_pow_eq_one.mpr <| by peel 2 h; exact this g

@[to_additive]
theorem ExponentExists.orderOf_pos (h : ExponentExists G) (g : G) : 0 < orderOf g :=
  h.isOfFinOrder g |>.orderOf_pos
```
you can use the latter to golf this proof too:
```lean
theorem exponent_eq_zero_of_order_zero {g : G} (hg : orderOf g = 0) : exponent G = 0 :=
  exponent_eq_zero_iff.mpr fun h ↦ h.orderOf_pos g |>.ne' hg
```

**Review by j-loreaux — COMMENTED** [review]
Yaël is correct, I have provided the proofs. Please remove the extraneous hypothesis. Otherwise LGTM.

File: Mathlib/GroupTheory/Exponent.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/Exponent.lean:218]: Can we make it an alias then?

File: Mathlib/Algebra/Group/Commute/Defs.lean (hunk 12 above)
Comment (adri326) [inline Mathlib/Algebra/Group/Commute/Defs.lean:48]: This lemma got merged in-between: [commute_iff_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Commute/Defs.html#commute_iff_eq)

File: Mathlib/GroupTheory/Torsion.lean [hunk 16]
```diff
@@ -138,15 +138,15 @@ theorem ExponentExists.isTorsion (h : ExponentExists G) : IsTorsion G := fun g =
...
+  exponent_ne_zero.mp <|
     (exponent_ne_zero_iff_range_orderOf_finite fun g => (tG g).orderOf_pos).mpr bounded
 #align is_torsion.exponent_exists IsTorsion.exponentExists
 #align is_add_torsion.exponent_exists IsAddTorsion.exponentExists
 
 /-- Finite groups are torsion groups. -/
 @[to_additive is_add_torsion_of_finite "Finite additive groups are additive torsion groups."]
 theorem isTorsion_of_finite [Finite G] : IsTorsion G :=
-  ExponentExists.isTorsion <| exponentExists_iff_ne_zero.mpr exponent_ne_zero_of_finite
+  ExponentExists.isTorsion <| exponent_ne_zero.mp exponent_ne_zero_of_finite
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Torsion.lean:149]:
```suggestion
  ExponentExists.of_finite.isTorsion
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 17]
```diff
@@ -95,6 +95,14 @@ theorem _root_.MulOpposite.exponent : exponent (MulOpposite G) = exponent G := b
   congr!
   all_goals exact ⟨(op_injective <| · <| op ·), (unop_injective <| . <| unop .)⟩
 
+@[to_additive]
+theorem ExponentExists.isOfFinOrder (h : ExponentExists G) (g : G) : IsOfFinOrder g :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean:99]: I'm willing to bet this is more useful in practice:
```suggestion
theorem ExponentExists.isOfFinOrder (h : ExponentExists G) {g : G} : IsOfFinOrder g :=
```

File: Mathlib/GroupTheory/Exponent.lean [hunk 18]
```diff
@@ -213,7 +221,7 @@ theorem exponent_dvd_iff_forall_pow_eq_one {n : ℕ} : exponent G ∣ n ↔ ∀
       exact hG
     exact h₂.not_le h₃
 
-@[to_additive (attr := deprecated)]
+@[to_additive]
 theorem exponent_dvd_of_forall_pow_eq_one (n : ℕ) (hG : ∀ g : G, g ^ n = 1) :
     exponent G ∣ n :=
   (exponent_dvd_iff_forall_pow_eq_one G).mpr hG
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Exponent.lean]: Can you make that an `alias` of `exponent_dvd_iff_forall_pow_eq_one` (and make `G` implicit in `exponent_dvd_iff_forall_pow_eq_one`)?

File: Mathlib/GroupTheory/Torsion.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/Torsion.lean]: Why not use dot notation all the way?

Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/Torsion.lean]: `_root_.ExponentExists.isTorsion` doesn't work in dot notation because it's about `Monoid.ExponentExists`. (I don't want to deal with that in this PR.)

Comment (YaelDillies) [reply Mathlib/GroupTheory/Torsion.lean]: Oh yeah that's why

**Comment by Ruben-VandeVelde** [comment]
I've run leaff on this PR, though I don't fully trust the output:
```diff
+ added Monoid.exponent_pos.{u}
+ added Monoid.ExponentExists.isOfFinOrder.{u}
+ added AddMonoid.lcm_addOrderOf_eq_exponent.{u}
+ added AddMonoid.ExponentExists.exponent_pos.{u}
+ added AddMonoid.addOrderOf_le_exponent.{u}
+ added Monoid.exponent_dvd_iff_forall_pow_eq_one.{u}
+ added AddMonoid.exists_addOrderOf_eq_exponent.{u}
+ added AddMonoid.ExponentExists.isOfFinAddOrder.{u}
+ added Monoid.ExponentExists.orderOf_pos.{u}
+ added Monoid.ExponentExists.of_finite.{u}
+ added AddMonoid.exponent_dvd_of_forall_addOrderOf_dvd.{u}
+ added commMonoidOfExponentTwo.{u}
+ added Monoid.ExponentExists.exponent_ne_zero.{u}
+ added AddMonoid.ExponentExists.of_finite.{u}
+ added Group.exponent_dvd_nat_card.{u}
+ added AddMonoid.exponent_pos.{u}
+ added Monoid.exponent_dvd.{u}
+ added Monoid.orderOf_le_exponent.{u}
+ added Monoid.exponent_dvd_of_forall_orderOf_dvd.{u}
+ added Commute.of_orderOf_dvd_two.{u}
+ added AddMonoid.ExponentExists.exponent_ne_zero.{u}
+ added Group.exponent_dvd_card.{u}
+ added AddMonoid.exponent_ne_zero.{u}
+ added AddCommute.of_addOrderOf_dvd_two.{u}
+ added AddMonoid.ExponentExists.addOrderOf_pos.{u}
+ added addCommMonoidOfExponentTwo.{u}
+ added AddMonoid.exponent_dvd_iff_forall_nsmul_eq_zero.{u}
+ added Monoid.ExponentExists.exponent_pos.{u}
+ added AddMonoid.exponent_dvd.{u}
+ added Monoid.lcm_orderOf_eq_exponent.{u}
+ added Monoid.exists_orderOf_eq_exponent.{u}
+ added Monoid.exponent_ne_zero.{u}
! type changed for mul_not_mem_of_exponent_two
! type changed for mul_comm_of_exponent_two
! type changed for add_not_mem_of_addOrderOf_eq_two
! type changed for mul_not_mem_of_orderOf_eq_two
! type changed for inv_eq_self_of_exponent_two
! type changed for instCommGroupOfExponentTwo
! type changed for instAddCommGroupOfExponentTwo
! type changed for inv_eq_self_of_orderOf_eq_two
! type changed for add_comm_of_exponent_two
! type changed for neg_eq_self_of_addOrderOf_eq_two
! type changed for neg_eq_self_of_exponent_two
! type changed for orderOf_eq_two_iff
! type changed for add_not_mem_of_exponent_two
! type changed for addOrderOf_eq_two_iff
! type changed for AddMonoid.exponent_dvd_of_forall_nsmul_eq_zero
! type changed for Monoid.exponent_dvd_of_forall_pow_eq_one
+ attribute protected added to Monoid.ExponentExists.exponent_pos
+ attribute protected added to AddMonoid.ExponentExists.exponent_ne_zero
+ attribute reducible added to addCommMonoidOfExponentTwo
+ attribute reducible added to commMonoidOfExponentTwo
+ attribute protected added to AddMonoid.ExponentExists.exponent_pos
+ attribute protected added to Monoid.ExponentExists.exponent_ne_zero
! moved mul_not_mem_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved addOrderOf_eq_two_iff from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_not_mem_of_addOrderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved inv_eq_self_of_orderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved inv_eq_self_of_orderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_comm_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_comm_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved mul_comm_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved neg_eq_self_of_addOrderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved neg_eq_self_of_addOrderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved mul_not_mem_of_orderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved neg_eq_self_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved neg_eq_self_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved mul_not_mem_of_orderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved instCommGroupOfExponentTwo from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved instCommGroupOfExponentTwo from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_not_mem_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_not_mem_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved mul_comm_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved addOrderOf_eq_two_iff from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved inv_eq_self_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved orderOf_eq_two_iff from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved orderOf_eq_two_iff from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved inv_eq_self_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved add_not_mem_of_addOrderOf_eq_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved mul_not_mem_of_exponent_two from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved instAddCommGroupOfExponentTwo from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
! moved instAddCommGroupOfExponentTwo from Mathlib.GroupTheory.SpecificGroups.KleinFour to Mathlib.GroupTheory.Exponent
```

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by j-loreaux** [comment]
bors merge
